US08835648B2
2-(5-bromo-2-chloro-phenyl)-benzoimidazole-1-carboxylic acid tert-butyl ester
Method 2—Step b—Into a three necked round bottomed flask equipped with a magnetic stirrer, 2-(5-bromo-2-chlorophenyl)-1H-benzimidazole (30.7 g, 99.8 mmol) was suspended in THF(1 L). 50% NaOH (72.0 g, 598 mmol) was then added. The suspension was left at r.t. for 1 h under stirring. (BOC)2O (37.0 g, 169.7 mmol) was dissolved in THF (200 mL) and added to the reaction mixture. The reaction was left under stirring overnight. The solvent was evaporated under reduced pressure. The obtained residue was diluted with water (500 mL) filtered and dried under vacuum (60° C.), to give 39.8 g of a brown solid. (98%).

reactant | 2-(5-bromo-2-chlorophenyl)-1H-benzimidazole | 99.8 mmol, 30.7 g | BrC=1C=CC(=C(C1)C1=NC2=C(N1)C=CC=C2)Cl | C13H8BrClN2
reactant | NaOH | 598 mmol, 72.0 g | [OH-].[Na+]
reactant | (BOC)2O | 169.7 mmol, 37.0 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(5-bromo-2-chloro-phenyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 39.8 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)C2=C(C=CC(=C2)Br)Cl | C18H16BrClN2O2
